2102-01-19 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient with intermittent nausea, diaphoresis this AM. EKG unchanged.
   VSS. FSG appropriate. Resolves within minutes without intervention.
   - Pericardial drain put out 105cc of fluid overnight
   Allergies:
   Penicillins
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2102-1-18**] 06:19 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-19**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 105 (89 - 105) bpm
   BP: 110/72(81) {94/40(43) - 116/73(104)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    524 mL
                                                                    560 mL
   PO:
             TF:
   IVF:
                                                                    524 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    365 mL
   Urine:
                                                                    450 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   105 mL
   Balance:
                                                                     74 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   General: Elderly man, lying on his back in bed, mildly diaphoretic, NAD
   HEENT: NC/AT, sclera anicteric, oropharynx clear
   Cardio: Tachycardic, regular rate and rhythm, no murmurs
   Pulm: Clear to auscultation anteriorly, pericardial drain in place
   draining serosanginous fluid
   Abdominal: soft, NT/ND, normoactive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Neurologic: A&Ox3, mild hearing loss, but CN otherwise intact, moving
   all extremities
   Labs / Radiology
   408
   10.7
   107
   1.0
   23
   4.6
   25
   104
   137
   34.8
   7.3
        [image002.jpg]
   Assessment and Plan
   73 y.o. male with known CAD, AF, DM, and pericarditis / pericardial
   effusions who presents to the CCU after balloon pericardiotomy and with
   recent NSTEMI.
   1) [**Last Name (un) 12772**]
s Pericarditis/Pericardial effusion:  This is patient's
   third episode of pericardial effusion of unclear etiology.  Patient
   also has large left sided pleural effusion of unclear etiology.  Would
   not be unreasonable to check ESR, CRP, [**Doctor First Name **], place PPD to rule out most
   common causes of pericardial effusion (collagen vascular disease
   particularly given pericardial effusion, TB) as viral seems less likely
   given recurrent episodes.  Previous tap negative for malignant cells
   though bloody fluid is somewhat concerning.  Distant mediastinal
   radiation can also cause recurrent effusions and this is possible from
   patient's previous SCLC treatment & known history of radiation
   overdose.
   -Consider [**Doctor First Name **], ESR, CRP, PPD in consultation with primary cardiologist
   -Recheck ECHO today
   -F/U fluid cytology
   -Pericardial drain care per protocol
   -Ibuprofen PRN pain
   2) Likely NSTEMI: Patient has elevated troponins and likely recent
   NSTEMI.  He has known LCx disease that has not yet been reopened and
   plan is to do this later in the week after effusion is no longer
   draining sanguinous fluid.  For the moment cardiac enzymes are falling,
   but in the context of nausea & diaphoresis this AM, another set of CE
   sent. EKG
s stable this AM.
   -Monitor closely for signs of cardiac ischemia
   -Continue ASA, Clopidogrel, BB, statin
   -F/U CE
s this AM
   -Hold heparin for now given bloody pericardial fluid
   - NPO after MN for cardiac catheterization
   3) Pump: Despite relatively severe and early onset CAD this patient has
   a normal LVEF and no history of clinical heart failure.  Patient had
   signs of early diastolic invagination but no tamponade physiology and
   no hemodynamic disruption on preprocedure echocardiograms.  Currently,
   pericardium is decompressed.
   -Continue ASA, BB, ACEi
   -Monitor
   4) Rhythm: Patient is in and out of AF and not optimally rate
   controlled.  He is not on Coumadin due to a recent subdural hematoma.
   -Continue Metoprolol 50 mg PO TID, continue Diltiazem ER 120mg daily
   -Continue ASA, hold coumadin or other anticoagulation for moment
   5) DM: Continue insulin sliding scale.
   6) Anemia: Stable and presumed due to thalassemia minor
   -Daily Hct
   6) Hyperthyroidism: Continue Methimazole at 2.5mg daily
   7) FEN: Cardiac, heart healthy diet, replete lytes
   ICU Care
   Nutrition: Cardiac/Diabetic diet
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2102-1-18**] 06:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: DNR / DNI
   Disposition: ICU
   ------ Protected Section ------
   Attending
s note.08.00hrs
   Reviewed data and overnight course
   Agree with Rx plan.[**First Name9 (NamePattern2) 12773**]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 45mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2102-1-19**] 10:14 ------

2102-01-20 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2102-1-19**] 09:00 AM
   - pericardial drain output minimal by afternoon; drain pulled
   - echo showed minimal fluid
   - plan for cath in AM to open LCx
   Allergies:
   Penicillins
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2102-1-18**] 06:19 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-20**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 99 (60 - 104) bpm
   BP: 101/62(71) {87/40(51) - 117/70(80)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.3 kg (admission): 94.9 kg
                  Total In:
                                                                  3,016 mL
                  PO:
                                                                    840 mL
                  TF:
   IVF:
                                                                  2,176 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                    225 mL
   Urine:
                                                                    760 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
                                                                    135 mL
   Balance:
                                                                  2,121 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   General: Elderly man, lying on his back in bed, mildly diaphoretic, NAD
   HEENT: NC/AT, sclera anicteric, oropharynx clear
   Cardio: regular rate and rhythm, normal S1, S2. no murmurs
   Pulm: decreased breath sounds in left lung fields. No crackles,
   wheezing or rhonchi.
   Abdominal: soft, NT/ND, normoactive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Neurologic: A&Ox3, mild hearing loss, but CN otherwise intact, moving
   all extremities
   Labs / Radiology
   360 K/uL
   9.9 g/dL
   107 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.6 mEq/L
   25 mg/dL
   104 mEq/L
   137 mEq/L
   32.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2102-1-19**]  06:45 AM
                             [**2102-1-20**]  06:13 AM
   WBC
   7.3
   5.9
   Hct
   34.8
   32.1
   Plt
   408
   360
   Cr
   1.0
   TropT
   0.52
   Glucose
   107
   Other labs:
   PT / PTT / INR:14.8/29.6/1.3,
   CK / CKMB / Troponin-T:55//0.52,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   TTE [**1-19**]: Right ventricular chamber size is normal with mild global
   free wall hypokinesis. There is abnormal septal motion, consistent with
   but not diagnostic of pericardial constriction. There is a small
   circumferential, echodense pericardial effusion. The pericardium may be
   thickened.
   IMPRESSION: Minimal pericardial fluid reaccumulation with indirect
   evidence of effusive-constrictive physiology.
   CXR [**1-20**]: my read: left sided pleural effusion, stable compared to
   yesterday, new compared to [**Month (only) **] prior to pacemaker placement
   Assessment and Plan
   73 y.o. male with known CAD, AF, DM, and pericarditis / pericardial
   effusions who presents to the CCU after balloon pericardiotomy and with
   recent NSTEMI.
   .
   1) Pleuro-pericardial effusion:  This is patient's third episode of
   pericardial effusion of unclear etiology.  Patient also has large left
   sided pleural effusion of unclear etiology.  Previous tap negative for
   malignant cells though bloody fluid is concerning for malignancy.
   Another possibility is that the pacemaker has caused micro-perforation
   in ventricle since pleural effusion and tamponade physiology were not
   present prior to pacemaker placement.  Distant mediastinal radiation
   can also cause recurrent effusions and this is possible from patient's
   previous SCLC treatment & known history of radiation overdose.  Also,
   it would not be unreasonable to check ESR, CRP, [**Doctor First Name **], place PPD to rule
   out most common causes of pericardial effusion (collagen vascular
   disease particularly given pericardial effusion, TB) as viral seems
   less likely given recurrent episodes.  TTE on [**1-19**] showed minimal
   pericardial fluid reaccumulation with indirect evidence of
   effusive-constrictive physiology.  Pericardial drain pulled on [**1-19**].
   - tap pleural effusion today
   - interrogate pacemaker today
   -F/U fluid cytology
   -continue standing indomethacin and prn morphine for pain
   -Consider [**Doctor First Name **], ESR, CRP, PPD in consultation with primary cardiologist,
   may be done if all other workup negative
   -monitor pericarditis/pericardial effusion sx and hct after cath as pt
   will receive heparin during the procedure
   -if concerning for enlarged pericardial effusion, will check pulsus and
   get stat TTE
   .
   2) Likely NSTEMI: Patient had elevated CEs and likely recent NSTEMI.
   CEs are currently trending down. His coronary angiography revealed a
   patent LAD stent but an occluded circumflex, which was not intervented
   on due to desire to avoid need for further anticoagulation in the
   setting of recent drainage of hemorrhagic effusion.  Now that patient
   pericardial output significantly decreased and drain pulled, plan is
   for cath today.
   -Cardiac cath today
   -Continue ASA, Clopidogrel, BB, statin
   -monitor pericarditis/pericardial effusion sx and hct after cath as pt
   will receive heparin during the procedure
   -Monitor closely for signs of cardiac ischemia
   .
   3) Pump: Despite relatively severe and early onset CAD this patient has
   a normal LVEF and no history of clinical heart failure.  Patient had
   signs of early diastolic invagination but no tamponade physiology and
   no hemodynamic disruption on preprocedure echocardiograms.  Repeat TTE
   on [**1-19**] showed minimal pericardial fluid reaccumulation with indirect
   evidence of effusive-constrictive physiology.
   -Continue ASA, BB, ACEi
   .
   4) Rhythm: Patient is in and out of AF and not optimally rate
   controlled.  He is not on Coumadin due to a recent subdural hematoma.
   -Continue Metoprolol 50 mg PO TID, continue Diltiazem ER 120mg daily
   -Continue ASA, hold coumadin or other anticoagulation for moment
   5) DM:
   -Continue insulin sliding scale.
   6) Anemia: Stable and presumed due to thalassemia minor
   -Daily Hct
   6) Hyperthyroidism:
   -Continue Methimazole at 2.5mg daily
   ICU Care
   Nutrition: Cardiac/Diabetic diet
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2102-1-19**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: DNR / DNI
   Disposition: ICU
   ------ Protected Section ------
   Attending
s Note:09.00hrs
   Reviewed data and examined Pt.
   Agree with Dr.[**First Name (STitle) 1050**]
s note and Rx Plan
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 45mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2102-1-20**] 11:00 ------

2102-01-21 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2102-1-20**] 11:30 AM
 EKG - At [**2102-1-21**] 12:20 AM
   - pt received thoracentesis, 1.8L removed, fluid sent for cx, LDH,
   protein, pH, and cytology
   - pleural fluid non-bloody, transudative in nature based on LDH,
   albumin and cholesterol criteria.  meets the protein criteria for
   exudative fluid, but this criteria is less specific than the other
   criteria and leads to many false positive results.
   - had some pleuritic CP after [**Female First Name (un) 217**], CXR demonstrated no PTX. Likely
   associated with pleurisy from catheter during procedure, as unable to
   adequately anesthesize parietal pleura due to body habitus.
   - pacer interrogated, working fine.
   - had nausea and diaphoresis at midnight, EKG showed Afib and ST
   depressions in V1-V5.  given SL nitro, sx significantly better.  also
   given 5mg IV metoprolol x3 for rate control.  sx resolved.  cards
   fellow aware. no heparin started given hemorrhagic pericardial effusion
   - had low UOP yesterday due to low intake, given 250cc boluses x2,
   started maintenance fluids. will encourage PO intake.
   - no cath today
   Allergies:
   Penicillins
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2102-1-18**] 06:19 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2102-1-20**] 09:49 PM
   Metoprolol - [**2102-1-21**] 01:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-21**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 85 (62 - 108) bpm
   BP: 105/63(72) {91/47(57) - 127/85(93)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.5 kg (admission): 94.9 kg
             Total In:
                                                                    822 mL
                                                                    867 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                    302 mL
                                                                    867 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    207 mL
   Urine:
                                                                    775 mL
                                                                    207 mL
   NG:
   Stool:
   Drains:
                                                                  1,800 mL
   Balance:
                                                                 -1,753 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: Elderly man, lying on his back in bed, mildly diaphoretic, NAD
   HEENT: NC/AT, sclera anicteric, oropharynx clear
   Cardio: regular rate and rhythm, normal S1, S2. no murmurs/rubs/gallops
   Pulm: decreased breath sounds in left lung fields. No crackles,
   wheezing or rhonchi.
   Abdominal: soft, NT/ND, normoactive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Neurologic: A&Ox3, mild hearing loss, but CN otherwise intact, moving
   all extremities
   Labs / Radiology
   360 K/uL
   9.9 g/dL
   148 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.7 mEq/L
   29 mg/dL
   104 mEq/L
   138 mEq/L
   32.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2102-1-19**]  06:45 AM
                             [**2102-1-20**]  06:13 AM
                             [**2102-1-21**]  12:38 AM
   WBC
   7.3
   5.9
   Hct
   34.8
   32.1
   Plt
   408
   360
   Cr
   1.0
   1.0
   1.1
   TropT
   0.52
   0.46
   Glucose
   107
   89
   148
   Other labs:
   CK / CKMB / Troponin-T:37//0.46, Albumin:3.0 g/dL, LDH:122 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   ESR, CRP and [**Doctor First Name **] pending
   CXR ([**1-20**]):
   Layering left effusion. Difficult to compare to post-[**Female First Name (un) 217**] CXR [**1-20**],
   but
   decreased from pre [**Female First Name (un) 217**] CXR [**1-20**]. No pneumothoarx. Unchanged
   LLL/retrocardiac opacity - atelectasis vs consolidation. Cardiac
   silhouette
   unchanged - had pericardial effusion on CXR [**1-15**].
   Assessment and Plan
   73 y.o. male with known CAD, AF, DM, and pericarditis / pericardial
   effusions who presents to the CCU after balloon pericardiotomy and with
   recent NSTEMI.
   .
   1) Pleuro-pericardial effusion:  This is patient's third episode of
   pericardial effusion of unclear etiology.  Patient also has large left
   sided pleural effusion of unclear etiology for the first time noted
   during this admission.  Pericardial tap negative for malignant cells
   x2.  Patient underwent thoracentesis on [**1-20**].8L removed.  Pleural
   fluid non-bloody, transudative in nature based on LDH, albumin and
   cholesterol criteria.  meets the protein criteria for exudative fluid,
   but this criteria is less specific than the other criteria and leads to
   many false positive results. We also considered the possibility of the
   pacemaker wire causing micro-perforation in ventricle since pleural
   effusion and tamponade physiology were not present prior to pacemaker
   placement. However, pacemaker interogation showed the pacer is working
   well. Distant mediastinal radiation can also cause recurrent effusions
   and this is possible from patient's previous SCLC treatment & known
   history of radiation overdose.  Collagen vascular disease should be
   ruled out as well.  TTE on [**1-19**] showed minimal pericardial fluid
   reaccumulation with indirect evidence of effusive-constrictive
   physiology.  Pericardial drain pulled on [**1-19**].
   - repeat TTE to see if pericardial window remains open
   - give lasix 20mg IV today for net 0.5L negative
   - F/U pleural fluid cytology
   - continue standing indomethacin and prn dilaudid or percocet for pain
   - f/u on [**Doctor First Name **], ESR, CRP
   - monitor pericarditis/pericardial effusion sx and hct after cath as pt
   will receive heparin during the procedure
   - if concerning for enlarged pericardial effusion, will check pulsus
   and get bedside TTE
   .
   2) NSTEMI: Patient had elevated CEs and likely recent NSTEMI.  He then
   had nausea and diaphoresis overnight last night with EKG finding of ST
   depression in V1-V5 in the setting of afib with RVR. The ST depression
   in anterolateral leads is concerning for LAD lesion, but could also be
   rate-related demand ischemia. Sx resolved after SL nitro and
   rate-control for Afib. His coronary angiography on [**1-18**] revealed a
   patent LAD stent but an occluded circumflex, which was not intervented
   on due to desire to avoid need for further anticoagulation in the
   setting of recent drainage of hemorrhagic effusion.  Now that patient
   pericardial output significantly decreased and drain pulled, plan is to
   cath him some time next week.
   - Cardiac cath on Monday
   - Continue ASA, Clopidogrel, BB, statin
   - will start heparin gtt if pt has anginal sx again today
   (nausea+diaphoresis+?chest pain), need to differentiate chest pain due
   to pericardial effusion from anginal chest pain
   - re-program pacer to DDI by EP today
   - SL nitro prn, will start nitro gtt if persistently symptomatic
   - monitor pericarditis/pericardial effusion sx and hct after cath as pt
   will receive heparin during the procedure
   - Monitor closely for signs of cardiac ischemia
   .
   3) Pump: Despite relatively severe and early onset CAD this patient has
   a normal LVEF and no history of clinical heart failure.  Patient had
   signs of early diastolic invagination but no tamponade physiology and
   no hemodynamic disruption on preprocedure echocardiograms.  Repeat TTE
   on [**1-19**] showed minimal pericardial fluid reaccumulation with indirect
   evidence of effusive-constrictive physiology.
   - Continue BB, ACEi
   - give lasix 20mg IV today for net 0.5L negative
   .
   4) Rhythm: Patient is in and out of AF and not optimally rate
   controlled.  He is not on Coumadin due to a recent subdural hematoma.
   - Continue Metoprolol 50 mg PO TID
   - continue Diltiazem ER 120mg daily
   - can give 5mg IV metoprolol for Afib with RVR to rate-control
   - Continue ASA, hold coumadin
   .
   5) DM:
   - Continue insulin sliding scale
   .
   6) Anemia: Stable and presumed due to thalassemia minor
   - Daily Hct
   .
   7) Hyperthyroidism:
   - Continue Methimazole at 2.5mg daily
   ICU Care
   Nutrition: Cardiac/Diabetic diet
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2102-1-19**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: DNR / DNI
   Disposition: CCU

2102-01-22 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2102-1-21**] 10:30 AM
 EKG - At [**2102-1-21**] 10:45 AM
   [**1-21**]:
   - pericardial fluid negative for malignant cells
   - here until monday for cardiac cath
   - ESR 40, CRP 161.9 , [**Doctor First Name **] still pending
   - lasix 20mg IV x 1 in AM, lasix 40mg IV x 1 at 5:30pm, net positive
   200cc
   - EP re-programmed pacer
   - pt converted to NSR at 11AM, at 3pm switched to A-pacing at 60bpm
   - TTE: The left ventricular cavity size is top normal/borderline
   dilated. The right ventricular cavity is mildly dilated. Biventricular
   systolic function appears grossly preserved in focused views. There is
   abnormal septal motion suggestive of possible pericardial constriction.
   There is a very small pericardial effusion. The pericardium appears
   thickened. Compared with the prior study (images reviewed) of
   [**2102-1-19**], the pericardial effusion appears smaller.
   - dilaudid/nitro PRN sx's & can give heparin if pt has angina
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2102-1-21**] 05:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, pleuritic pain from clavicle to costal margin on
   left
   Flowsheet Data as of  [**2102-1-22**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 60 (60 - 103) bpm
   BP: 108/62(72) {76/38(47) - 115/69(94)} mmHg
   RR: 23 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 94 kg (admission): 94.9 kg
                  Total In:
                                                                  2,358 mL
                                                                    120 mL
   PO:
                                                                    660 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,698 mL
   Blood products:
   Total out:
                                                                  2,147 mL
                                                                    870 mL
   Urine:
                                                                  2,147 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    211 mL
                                                                   -750 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   9.8 g/dL
   130 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.0 mEq/L
   28 mg/dL
   101 mEq/L
   138 mEq/L
   32.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2102-1-19**]  06:45 AM
                             [**2102-1-20**]  06:13 AM
                             [**2102-1-21**]  12:38 AM
                             [**2102-1-21**]  06:26 AM
                             [**2102-1-22**]  04:32 AM
   WBC
   7.3
   5.9
   8.7
   7.0
   Hct
   34.8
   32.1
   36.8
   32.8
   Plt
   [**Telephone/Fax (3) 12810**]54
   Cr
   1.0
   1.0
   1.1
   1.1
   1.1
   TropT
   0.52
   0.46
   0.38
   Glucose
   107
   89
   148
   136
   130
   Other labs: PT / PTT / INR:14.4/30.6/1.2, CK / CKMB /
   Troponin-T:37//0.38, Albumin:3.0 g/dL, LDH:122 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: CRP 161.7
   ESR 40.0
   Imaging: TTE [**1-21**]
   The left ventricular cavity size is top normal/borderline dilated. The
   right ventricular cavity is mildly dilated. Biventricular systolic
   function appears grossly preserved in focused views. There is abnormal
   septal motion suggestive of possible pericardial constriction. The
   aortic valve is not well seen. The mitral valve leaflets are moderately
   thickened. There is moderate thickening of the mitral valve chordae.
   The tricuspid valve leaflets are mildly thickened. There is a very
   small pericardial effusion. The pericardium appears thickened.
   Compared with the prior study (images reviewed) of [**2102-1-19**], the
   pericardial effusion appears smaller. The fluid apical to the left
   ventricle now appears to consist largely of pleural effusion, although
   views are limited.
   Assessment and Plan
   73 y.o. male with known CAD, AF, DM, and pericarditis / pericardial
   effusions who presents to the CCU after balloon pericardiotomy and with
   recent NSTEMI.
   .
   1) Pleuro-pericardial effusion:  This is patient's third episode of
   pericardial effusion of unclear etiology.  Patient also has large left
   sided pleural effusion of unclear etiology for the first time noted
   during this admission.  Pericardial tap negative for malignant cells
   x2.  Patient underwent thoracentesis on [**1-20**].8L removed.  Pleural
   fluid non-bloody, transudative in nature based on LDH, albumin and
   cholesterol criteria.  meets the protein criteria for exudative fluid,
   but this criteria is less specific than the other criteria and leads to
   many false positive results. We also considered the possibility of the
   pacemaker wire causing micro-perforation in ventricle since pleural
   effusion and tamponade physiology were not present prior to pacemaker
   placement. However, pacemaker interogation showed the pacer is working
   well. Distant mediastinal radiation can also cause recurrent effusions
   and this is possible from patient's previous SCLC treatment & known
   history of radiation overdose.  Collagen vascular disease should be
   ruled out as well.  TTE on [**1-19**] showed minimal pericardial fluid
   reaccumulation with indirect evidence of effusive-constrictive
   physiology.  Pericardial drain pulled on [**1-19**]. TTE on [**1-21**] showed
   pericardial thickening and fluid appears to be mainly pleural effusion.
   CRP is markedly elevated on [**1-21**], [**Doctor First Name **] pending
   - pain control: continue standing indomethacin and prn dilaudid or
   percocet for pain
   - F/U pleural fluid cytology
   - monitor pericarditis/pericardial effusion sx and hct after cath as pt
   will receive heparin during the procedure
   - if concerning for enlarged pericardial effusion, will check pulsus
   and get bedside TTE
   .
   2) NSTEMI: Patient had elevated CEs and likely recent NSTEMI.  He then
   had nausea and diaphoresis [**1-20**] with EKG finding of ST depression in
   V1-V5 in the setting of afib with RVR. The ST depression in
   anterolateral leads is concerning for LAD lesion, but could also be
   rate-related demand ischemia. Sx resolved after SL nitro and
   rate-control for Afib. His coronary angiography on [**1-18**] revealed a
   patent LAD stent but an occluded circumflex, which was not intervented
   on due to desire to avoid need for further anticoagulation in the
   setting of recent drainage of hemorrhagic effusion.  Now that patient
   pericardial output significantly decreased and drain pulled, plan is to
   cath him some time next week.
   - Cardiac cath on Monday
   - Continue ASA, Clopidogrel, BB, statin
   - will start heparin gtt if pt has anginal sx again today
   (nausea+diaphoresis+?chest pain), need to differentiate chest pain due
   to pericardial effusion from anginal chest pain
   - re-program pacer to DDI by EP today
   - SL nitro prn, will start nitro gtt if persistently symptomatic
   - monitor pericarditis/pericardial effusion sx and hct after cath as pt
   will receive heparin during the procedure
   - Monitor closely for signs of cardiac ischemia
   .
   3) Pump: Despite relatively severe and early onset CAD this patient has
   a normal LVEF and no history of clinical heart failure.  Patient had
   signs of early diastolic invagination but no tamponade physiology and
   no hemodynamic disruption on preprocedure echocardiograms.  Repeat TTE
   on [**1-19**] showed minimal pericardial fluid reaccumulation with indirect
   evidence of effusive-constrictive physiology.
   - Continue BB, ACEi
   - maintain negative or equal fluid balance
   .
   4) Rhythm: Patient is in and out of AF and not optimally rate
   controlled.  He is not on Coumadin due to a recent subdural hematoma.
   - Continue Metoprolol 50 mg PO TID
   - continue Diltiazem ER 120mg daily
   - can give 5mg IV metoprolol for Afib with RVR to rate-control
   - Continue ASA, hold coumadin
   .
   5) DM:
   - Continue insulin sliding scale
   .
   6) Anemia: Stable and presumed due to thalassemia minor
   - Daily Hct
   .
   7) Hyperthyroidism:
   - Continue Methimazole at 2.5mg daily
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-1-19**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Attending
s Note:10.30hrs
   Reviewed overnight course and data.
   Examined Pt and agree with Dr.[**Last Name (STitle) **]
s plan of Rx.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**].
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2102-1-22**] 12:46 ------

2102-01-23 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - much ado about constipation and gas pain; received lactulose and
   simethicone. 2 bowel movements. very happy
   - urine output trailed from 60-80/hr to 25 to 0 by 4pm. Started slow
   fluids at 1627 for 750 ml
   Allergies:
   Penicillins
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Flowsheet Data as of  [**2102-1-23**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 96 (60 - 108) bpm
   BP: 101/65(75) {88/51(51) - 114/78(86)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94 kg (admission): 94.9 kg
             Total In:
                                                                    913 mL
                                                                    558 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    313 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    235 mL
   Urine:
                                                                  1,465 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -553 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   408 K/uL
   10.5 g/dL
   130 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.0 mEq/L
   28 mg/dL
   101 mEq/L
   138 mEq/L
   34.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2102-1-19**]  06:45 AM
                             [**2102-1-20**]  06:13 AM
                             [**2102-1-21**]  12:38 AM
                             [**2102-1-21**]  06:26 AM
                             [**2102-1-22**]  04:32 AM
                             [**2102-1-23**]  06:07 AM
   WBC
   7.3
   5.9
   8.7
   7.0
   7.0
   Hct
   34.8
   32.1
   36.8
   32.8
   34.8
   Plt
   [**Telephone/Fax (3) 12810**]54
   408
   Cr
   1.0
   1.0
   1.1
   1.1
   1.1
   TropT
   0.52
   0.46
   0.38
   Glucose
   107
   89
   148
   136
   130
   Other labs: PT / PTT / INR:14.4/30.6/1.2, CK / CKMB /
   Troponin-T:37//0.38, Albumin:3.0 g/dL, LDH:122 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   73 y.o. male with known CAD, AF, DM, and pericarditis / pericardial
   effusions who presents to the CCU after balloon pericardiotomy and with
   recent NSTEMI.
   .
   1) Pleuro-pericardial effusion:  This is patient's third episode of
   pericardial effusion of unclear etiology.  Patient also has large left
   sided pleural effusion of unclear etiology for the first time noted
   during this admission.  Pericardial tap negative for malignant cells
   x2.  Patient underwent thoracentesis on [**1-20**].8L removed.  Pleural
   fluid non-bloody, transudative in nature based on LDH, albumin and
   cholesterol criteria.  meets the protein criteria for exudative fluid,
   but this criteria is less specific than the other criteria and leads to
   many false positive results. We also considered the possibility of the
   pacemaker wire causing micro-perforation in ventricle since pleural
   effusion and tamponade physiology were not present prior to pacemaker
   placement. However, pacemaker interogation showed the pacer is working
   well. Distant mediastinal radiation can also cause recurrent effusions
   and this is possible from patient's previous SCLC treatment & known
   history of radiation overdose.  Collagen vascular disease should be
   ruled out as well.  TTE on [**1-19**] showed minimal pericardial fluid
   reaccumulation with indirect evidence of effusive-constrictive
   physiology.  Pericardial drain pulled on [**1-19**]. TTE on [**1-21**] showed
   pericardial thickening and fluid appears to be mainly pleural effusion.
   CRP is markedly elevated on [**1-21**], [**Doctor First Name **] pending
   - pain control: continue standing indomethacin and colchicine, prn
   dilaudid or percocet for pain
   - F/U pleural fluid cytology
   - monitor pericarditis/pericardial effusion sx and hct after cath as pt
   will receive heparin during the procedure
   - if concerning for enlarged pericardial effusion, will check pulsus
   and get bedside TTE
   .
   2) NSTEMI: Patient had elevated CEs and likely recent NSTEMI.  He then
   had nausea and diaphoresis [**1-20**] with EKG finding of ST depression in
   V1-V5 in the setting of afib with RVR. The ST depression in
   anterolateral leads is concerning for LAD lesion, but could also be
   rate-related demand ischemia. Sx resolved after SL nitro and
   rate-control for Afib. His coronary angiography on [**1-18**] revealed a
   patent LAD stent but an occluded circumflex, which was not intervented
   on due to desire to avoid need for further anticoagulation in the
   setting of recent drainage of hemorrhagic effusion.  Now that patient
   pericardial output significantly decreased and drain pulled, plan is to
   cath him some time next week.
   - Cardiac cath today
   - Continue ASA, Clopidogrel, BB, statin
   - will start heparin gtt if pt has anginal sx again
   (nausea+diaphoresis+?chest pain), need to differentiate chest pain due
   to pericardial effusion from anginal chest pain
   - SL nitro prn, will start nitro gtt if persistently symptomatic
   - monitor pericarditis/pericardial effusion sx and hct after cath as pt
   will receive heparin during the procedure
   - Monitor closely for signs of cardiac ischemia
   .
   3) Pump: Despite relatively severe and early onset CAD this patient has
   a normal LVEF and no history of clinical heart failure.  Patient had
   signs of early diastolic invagination but no tamponade physiology and
   no hemodynamic disruption on preprocedure echocardiograms.  Repeat TTE
   on [**1-19**] showed minimal pericardial fluid reaccumulation with indirect
   evidence of effusive-constrictive physiology.
   - Continue BB, ACEi
   - maintain negative or equal fluid balance
   .
   4) Rhythm: Patient is in and out of AF and not optimally rate
   controlled.  He is not on Coumadin due to a recent subdural hematoma.
   - Continue Metoprolol 50 mg PO TID
   - continue Diltiazem ER 120mg daily
   - can give 5mg IV metoprolol for Afib with RVR to rate-control
   - Continue ASA, hold coumadin
   .
   5) DM:
   - Continue insulin sliding scale
   .
   6) Anemia: Stable and presumed due to thalassemia minor
   - Daily Hct
   .
   7) Hyperthyroidism:
   - Continue Methimazole at 2.5mg daily
   .
   8) Bowel Disorder: Patient has dependence on bowel regimen that is both
   mechanical and functional.
   - senna, colace, miralax
   - lactulose prn
   - avoid mag citrate
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2102-1-22**] 07:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
 REVERSING ORDER FOR TODAY. Patient does NOT
   want prolonged code.
   Disposition:
   ------ Protected Section ------
   Attending
s Note:10.00hrs
   Reviewed overnight course.
   Continues to improve.
   Examined Pt and agree with Rx plan of Dr. [**Last Name (STitle) **].
   For PCI today.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 45mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2102-1-23**] 09:36 ------